US04871842
In 300 ml of methanol, 13 g of 4-(2-nitrophenyl)-2-phthalimidobutyric acid is catalytically reduced at ambient temperature and under atmospheric pressure with use of 3 g of 5% palladium-carbon as a catalyst. After the calculated amount of hydrogen is absorbed, the insoluble material is separated by filtration, and washed four times with 300 ml of acetone. The acetone washings and the methanol portion are combined and concentrated under reduced pressure. The residue is admixed with 50 ml of ethanol, and the crystals which separate out are collected by filtration to give 10.1 g of 4-(2-aminophenyl)-2-phthalimidobutyric acid as yellow prisms. m.p. 198°-203° C. (decomp.).

reactant | 4-(2-nitrophenyl)-2-phthalimidobutyric acid | 13 g | [N+](=O)([O-])C1=C(C=CC=C1)CCC(C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C18H14N2O6
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium-carbon | 3 g | [C].[Pd]
product | 4-(2-aminophenyl)-2-phthalimidobutyric acid | 10.1 g | NC1=C(C=CC=C1)CCC(C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O4
